US04999378
(1) Methyl 4-[3-[N-(4-chlorophenyl)-N-cyanomethylamino]propoxy]benzoate
Methyl 4-[3-[N-(4-chlorophenyl)amino]propoxy]benzoate (1.2 g) was dissolved in DMF (10 ml), and under heating with stirring at 90° C., sodium bicarbonate (7.6 g) and chloroacetonitrile (6.63 g) were added thereto in 8-10 portions respectively over a period of 7 days. The reaction mixture was cooled, and water and ethyl acetate were added thereto and the mixture was separated into layers. The organic layer was washed with aqueous sodium chloride solution, and concentrated under reduced pressure. The residue was subjected to column chromatography on silica gel and eluted with chloroform to give the oily desired product (1.00 g).

reactant | Methyl 4-[3-[N-(4-chlorophenyl)amino]propoxy]benzoate | 1.2 g | ClC1=CC=C(C=C1)NCCCOC1=CC=C(C(=O)OC)C=C1 | C17H18ClNO3
reactant | sodium bicarbonate | 7.6 g | C([O-])(O)=O.[Na+]
reactant | chloroacetonitrile | 6.63 g | ClCC#N | C2H2ClN
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 4-[3-[N-(4-chlorophenyl)-N-cyanomethylamino]propoxy]benzoate | 1.00 g | ClC1=CC=C(C=C1)N(CC#N)CCCOC1=CC=C(C(=O)OC)C=C1 | C19H19ClN2O3
